US06727264B1
N-[3-(1-{3-[2-(4-FLUOROPHENYL)-5-METHOXY-1H-INDOL-3-YL]PROPYL}-4-PIPERIDINYL)PHENYL]-2-METHYLPROPANAMIDE:
Prepared by Procedure E and Scheme M using N-(3-{1-[5-(4-fluorophenyl)-5-oxopentyl]-4-piperidinyl}phenyl)-2-methylpropanamide and 4-methoxyphenylhydrazine hydrochloride: ESMS m/e: 528.2 (M+H)+.

reactant | N-(3-{1-[5-(4-fluorophenyl)-5-oxopentyl]-4-piperidinyl}phenyl)-2-methylpropanamide | FC1=CC=C(C=C1)C(CCCCN1CCC(CC1)C=1C=C(C=CC1)NC(C(C)C)=O)=O | C26H33FN2O2
reactant | 4-methoxyphenylhydrazine hydrochloride | Cl.COC1=CC=C(C=C1)NN
product | N-[3-(1-{3-[2-(4-FLUOROPHENYL)-5-METHOXY-1H-INDOL-3-YL]PROPYL}-4-PIPERIDINYL)PHENYL]-2-METHYLPROPANAMIDE | FC1=CC=C(C=C1)C=1NC2=CC=C(C=C2C1CCCN1CCC(CC1)C=1C=C(C=CC1)NC(C(C)C)=O)OC | C33H38FN3O2
